US06605629B1
A mixture of ethyl 4-[4-(4-fluorophenyl)-2-oxo-4-oxazolin-5-yl]butanoate (7.00 g), phosphorus oxychloride (14.7 g) and pyridine (1.89 g) was heated to 120-130° C. and stirred for 45 minutes. The reaction mixture was poured into ice water (200 ml) and extracted with ethyl acetate (150 ml×2). The organic layer was washed in sequence with a 10% aqueous solution of sodium hydrogen carbonate (100 ml) and a saturated aqueous solution of sodium chloride (100 ml), and then dried over anhydrous magnesium sulfate. The organic layer was concentrated, the residue was subjected to silica gel column chromatography, and ethyl 2-chloro-4-(4-fluorophenyl)-5-oxazolebutanoate was obtained as a yellow oil (4.23 g, 57%) from an ethyl acetate-hexane (1:4, v/v)-eluted fraction.

reactant | ethyl 4-[4-(4-fluorophenyl)-2-oxo-4-oxazolin-5-yl]butanoate | 7.00 g | FC1=CC=C(C=C1)C=1NC(OC1CCCC(=O)OCC)=O | C15H16FNO4
reactant | phosphorus oxychloride | 14.7 g | P(=O)(Cl)(Cl)Cl | Cl3OP
solvent | pyridine | 1.89 g | N1=CC=CC=C1 | C5H5N
product | ethyl 2-chloro-4-(4-fluorophenyl)-5-oxazolebutanoate | ClC=1OC(=C(N1)C1=CC=C(C=C1)F)CCCC(=O)OCC | C15H15ClFNO3
